Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Nausea/Vomiting 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ woman with a history of  type 2
diabetes, hypertension, and NASH cirrhosis (complicated by
ascites, prior hx of SBP, and esophageal varices), currently on
the transplant list with recent MELD 10 (today is 17 on
admission) who presents with 4 days of nausea, vomiting.

She reports being in her USOH until ___ when she developed
nausea with several episodes of non bloody nonbilious vomiting
with subsequent decreased PO intake. She also describes onset of
intermittent ___ abdominal pain focused around her umbilicus
that is non radiating that comes on at times after an episode of
vomiting, and at times triggering an episode of nausea/vomiting.
These symptoms have been ongoing since ___ and she has been
unable to tolerate PO. She last attempted to eat yesterday
morning but vomited this back up. Her PO fluid intake has been
quite low. She denies any recent travel, sick contacts, or
changes in diet. Also denies any recent fever/chills, chest 
pain,
cough SOB, headache, lightheadedness/dizziness, hematochezia,
melena, dysuria. She has continued to take her medications daily
as prescribed. According to her daughter who presents with pt to
the ED, she has also been intermittently confused. Her daughter
spoke with her transplant nurse this morning recommend her to
come into the ED for further evaluation and management. 
 
Past Medical History:
HTN
NIDDMI
Cirrhosis (unknown etiology) c/b esophageal varices
 
Social History:
___
Family History:
Mother with hypertension and hyperlipidemia. No
known family history of gallbladder disease.

 
Physical Exam:
ADMISSION EXAM
==============
VS: T97.6, BP 119/79, HR 94, 98% on RA 
GENERAL: NAD
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM
HEART: RRR, S1/S2, no murmurs, gallops, or rubs
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
ABDOMEN: soft, nondistended, nontender in all quadrants, no
rebound/guarding
EXTREMITIES: WWP, no ___ edema.  
PULSES: 2+ DP pulses bilaterally
NEURO: A&Ox3, moving all 4 extremities with purpose
SKIN: no rashes or lesions

DISCHARGE PHYSICAL EXAM:
=======================
VS: 98.5 PO120 / 7896bpm18RR99%Ra
GENERAL: NAD
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM
HEART: RRR, S1/S2, no murmurs, gallops, or rubs
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
ABDOMEN: soft, nondistended, nontender in all quadrants, no
rebound/guarding
EXTREMITIES: WWP, no ___ edema.  
PULSES: 2+ DP pulses bilaterally
NEURO: A&Ox3, moving all 4 extremities with purpose
SKIN: no rashes or lesions
 
Pertinent Results:
ADMISSION LABS:
==============
___ 05:23PM BLOOD WBC-6.7 RBC-5.25* Hgb-16.0* Hct-46.6* 
MCV-89 MCH-30.5 MCHC-34.3 RDW-13.9 RDWSD-44.6 Plt ___
___ 06:07PM BLOOD ___ PTT-40.6* ___
___ 05:23PM BLOOD Glucose-96 UreaN-36* Creat-1.6* Na-134* 
K-4.8 Cl-93* HCO3-21* AnGap-20*
___ 05:23PM BLOOD ALT-33 AST-57* AlkPhos-235* TotBili-1.9*
___ 05:23PM BLOOD Albumin-4.8 Calcium-12.1* Phos-3.5 Mg-1.7
___ 05:33PM BLOOD Lactate-4.4*

MICRO
=====
___ 9:02 pm URINE
URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

IMAGING:
=======
RUQ Ultrasound ___
IMPRESSION:
1. Cirrhotic liver morphology with trace perihepatic ascites.  
No
splenomegaly.
2. Patent hepatic vasculature.  Left portal vein slow flow.

DISCHARGE LABS
===============
___ 05:20AM BLOOD WBC-3.9* RBC-4.01 Hgb-12.4 Hct-36.6 
MCV-91 MCH-30.9 MCHC-33.9 RDW-13.9 RDWSD-46.5* Plt Ct-95*
___ 05:20AM BLOOD ___ PTT-45.8* ___
___ 05:20AM BLOOD Glucose-111* UreaN-20 Creat-1.0 Na-140 
K-4.0 Cl-103 HCO3-22 AnGap-15
___ 05:20AM BLOOD ALT-29 AST-58* AlkPhos-163* TotBili-2.1*
___ 05:20AM BLOOD Albumin-4.5 Calcium-10.1 Phos-3.0 Mg-2.0
 
Brief Hospital Course:
Ms. ___ is a ___ woman with a history of type 2 
diabetes, hypertension, and NASH cirrhosis (complicated by 
ascites, prior hx of SBP, and esophageal varices), currently on 
the transplant list, who presented with 4 days of nausea and 
vomiting, found to have ___. 

ACTIVE ISSUES
=============
#Gastroenteritis 
Patient presented with nausea and vomiting, thought likely viral 
gastroenteritis. Abdominal exam benign. No diarrhea. She had 
elevated lactate to 4.4 on admission likely related to 
hypoperfusion iso hypovolemia; it improved with fluids. Her 
nausea and vomiting resolved rapidly upon admission. Cultures 
were negative. She was tolerating a regular diet without issue 
by discharge. 

___ 
Admission Cr 1.6 from baseline 1.0. Likely prerenal in setting 
of poor PO intake with ongoing use of home diuretics. She 
received fluids and albumin with resolution of ___. Home Lasix, 
spironolactone, nadolol and losartan were held initially for 
___. She was restarted on Lasix, spironolactone and nadolol upon 
discharge with resolution of ___. Home losartan was held on 
discharge given recent ___ and normotension off of it. Discharge 
Cr 1.0. 

#NASH cirrhosis
NASH cirrhosis complicated by grade 2 esophageal varices (seen 
on EGD ___ and hx of ascites with SBP, on prophylactic 
ciprofloxacin. MELD 17 on admission. Active on transplant list. 
Home diuretics (lasix and spironolactone) were held initially 
iso ___ and restarted unchanged upon discharge. Home nadolol was 
held initially iso ___ and restarted upon discharge. She was 
continued on home ciprofloxacin for history of SBP. This 
admission she had trace perihepatic ascites that was not 
tappable. She did not have HE this admission. She was continued 
on home ursodiol. 

CHRONIC ISSUES
==============
#HTN: Held home losartan on discharge given recent ___. Please 
assess renal function and indication to restart losartan 
outpatient. She was normotensive off of losartan. 

#T2DM: Resumed home metformin on discharge 

TRANSITIONAL ISSUES
===================

[] Held home losartan on discharge given recent ___. Please 
assess renal function and indication to restart losartan 
outpatient. She was normotensive off of losartan. 
[] Monitor renal function
[] Please ensure that she attends her liver follow up 
appointment on ___.

# CODE: Presumed FULL
# CONTACT: Proxy name: ___ 
Relationship: daughter Phone: ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Ursodiol 500 mg PO DAILY 
2. Vitamin D ___ UNIT PO DAILY 
3. MetFORMIN (Glucophage) 500 mg PO BID 
4. Nadolol 20 mg PO DAILY 
5. Ciprofloxacin HCl 500 mg PO DAILY 
6. Furosemide 40 mg PO DAILY 
7. Spironolactone 100 mg PO DAILY 
8. Losartan Potassium 50 mg PO DAILY 

 
Discharge Medications:
1.  Atorvastatin 10 mg PO QPM 
RX *atorvastatin 10 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
2.  Ciprofloxacin HCl 500 mg PO DAILY  
3.  Furosemide 40 mg PO DAILY  
4.  MetFORMIN (Glucophage) 500 mg PO BID  
5.  Nadolol 20 mg PO DAILY  
6.  Spironolactone 100 mg PO DAILY  
7.  Ursodiol 500 mg PO DAILY  
8.  Vitamin D ___ UNIT PO DAILY  
9. HELD- Losartan Potassium 50 mg PO DAILY  This medication was 
held. Do not restart Losartan Potassium until your doctor tells 
you to. 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: 
Gastroenteritis 
Acute kidney injury 

SECONDARY DIAGNOSIS: 
Cirrhosis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure to care for you at ___ 
___. 

WHY WERE YOU ADMITTED? 
- You had nausea and vomiting, and your kidneys were dehydrated. 


WHAT HAPPENED IN THE HOSPITAL? 
- You received fluids through the IV and your kidney function 
improved. Your nausea and vomiting resolved. 

WHAT SHOULD YOU DO AT HOME? 
- Take your medications as written. Please do NOT take losartan 
for now. 
- Go to your follow up appointments as scheduled. 
- Weigh yourself daily and call your doctor if weight increases 
by 3lbs or more. 

We wish you the best, 
Your ___ team 
 
Followup Instructions:
___